US03970670
The starting material is prepared as follows: The mixture of 14 g of 7-cyanoheptanal, 38 g of ethyl triphenylphosphoranylidene-acetate and 100 ml of benzene is refluxed for 15 hours and evaporated. The residue is triturated with diethyl ether, filtered and the filtrate evaporated. The residue is allowed to stand overnight in the refrigerator, triturated with the minimum amount of diethyl ether, the suspension filtered, the filtrate evaporated, the residue distilled and the fraction boiling at 130°-138°/0.1 mm Hg collected, to yield the 9-cyano-2-nonenoic acid ethyl ester of the formula

reactant | 7-cyanoheptanal | 14 g | C(#N)CCCCCCC=O | C8H13NO
reactant | ethyl triphenylphosphoranylidene-acetate | 38 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=CC(=O)OCC | C22H21O2P
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 9-cyano-2-nonenoic acid ethyl ester | C(C)OC(C=CCCCCCCC#N)=O | C12H19NO2
